US06743608B2
n-Hexyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate/Ethyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate
To a solution of ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate in t-butyl ethyl ether (dried on 3 Å molecular sieve) (10 mg/ml) was added n-hexanol (2 equivalents), triethylamine (dried on 3 Å molecular sieve) (14 mol %), 4 Å molecular sieve, and Mucor miehei lipase Lipozyme IM (from Novo Nordisk) (20 mg). The reaction mixture was shaken at room temperature and analysed at different times. The reaction mixture was analysed by the gradient HPLC method 1 and by the chiral CE method 2.

reactant | ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | n-hexanol | 2 equivalents | C(CCCCC)O | C6H14O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Lipozyme | C1CSSC1CCCCC(=O)N | C8H15NOS2
solvent | t-butyl ethyl ether | C(C)OC(C)(C)C | C6H14O
product | n-Hexyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate Ethyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@@H](C(=O)OCCCCCC)CC1=CC=C(C=C1)O.C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | InChI=1S/C17H26O4.C13H18O4/c1-3-5-6-7-12-21-17(19)16(20-4-2)13-14-8-10-15(18)11-9-14;1-3-16-12(13(15)17-4-2)9-10-5-7-11(14)8-6-10/h8-11,16,18H,3-7,12-13H2,1-2H3;5-8,12,14H,3-4,9H2,1-2H3/t16-;12-/m10/s1
